US07173004B2
Preparation of Compound 13, [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid 2,2-dimethyl-propyl ester
To a mixture of cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl]-amide bis hydrochloride (50 mg, 0.075 mmol) in 2 mL of DCM was added 44 μL (0.25 mmol) of DIPEA and 15 mg (0.1 mmol) of neopentyl chloroformate. The mixture was stirred at rt for 2 h. It was then diluted with EtOAc and washed with pH 4 buffer (2×) and brine (1×). The organic phase was dried (MgSO4) and concentrated in vacuo to give the crude product. The resulting oil was dissolved in methanol and purified by preparative HPLC (YMC XTERRA, S5, 30×50 mm, gradient: 65% B to 100% B, 15 min, hold 2 min, flow rate 40 mL/min) to isolate the product as a white powder (42 mg, 79%): LC-MS (Method A, retention time: 3.58 min), MS m/z 710 (M++1).

reactant | cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl]-amide bis hydrochloride | 0.075 mmol, 50 mg | Cl.Cl.NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1
reactant | DIPEA | 0.25 mmol, 44 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | neopentyl chloroformate | 0.1 mmol, 15 mg | ClC(=O)OCC(C)(C)C | C6H11ClO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | CO | CH4O
product | [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid 2,2-dimethyl-propyl ester | 42 mg, 79% | CC(COC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1)=O)(C)C | C36H47N5O8S
